* C:\Users\skipi\Desktop\Leo\Politek\Progetti\Kick\PoliKick\spice\PoliKick.asc
C1 N022 Vi 10n
R1 N022 0 39k
D1 0 N022 D
R3 Vcc N019 100k
R2 N019 0 33k
Vcc Vcc 0 12V
Vee 0 Vee 12V
Vi Vi 0 PULSE(0 5 1ms 50u 50u 3ms 200ms)
R4 N021 N020 100k
Q1 0 AccentCV N025 0 PNP
Q2 Vcc N021 N004 0 NPN
R5 N021 N025 22k
R6 N021 0 120k
D2 N004 N005 D
C2 0 N005 220n
R8 N007 N009 10k
XU1 N022 N019 Vcc Vee N020 TL072
R§TuneDecay N005 N007 100k
Q3 0 N011 N009 0 PNP
R10 PitchCV N011 68k
R11 N011 0 33k
Q4 Vcc N005 N001 0 NPN
R13 N006 N001 100k
Q5 N003 N006 N008 0 NPN
R12 N010 0 2k
R§TuneDepth N008 N010 10k
C3 N002 N001 5.6n
D3 N002 0 D
R9 N003 N002 1Meg
R14 N024 N004 100k
R15 0 N024 14k
XU2 N024 N013 Vcc Vee N014 TL072
R16 N014 N013 1Meg
C4 N003 N013 15n
C5 N014 N003 15n
R§Pitch N017 0 4.7k
R17 N003 N017 100k
R18 N015 N014 68k
XU4 0 N015 Vcc Vee N012 TL072
R19 N012 N003 470k
R§DecayLog N012 N015 50k
R§Tone N023 N014 50k
C6 N023 0 68n
XU3 N023 N016 Vcc Vee Vo TL072
R§Distorsion Vo N016 100k
D4 Vo N016 D
D5 N016 Vo D
C7 N016 N018 220n
R22 N018 0 33k
V§AccentCV AccentCV 0 5V
V§PitchCV PitchCV 0 0V
.model D D
.lib C:\Users\skipi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\skipi\AppData\Local\LTspice\lib\cmp\standard.bjt
* Gate to trigger
.tran 0 1s 0 100u
* .step param PitchCV 0 5 1
* .step param AccentCV 0V 5V 1V
* .step param TuneDecay 10 100k 10k
* .step param TuneDepth 10 10k 1k
* .step param Pitch 10 200k 20k
* .step param DecayLog 10 50k 5k
* .step param Tone 10 50k 5k
* .step param Distorsion 10 100k 10k
* Pot 100k
.lib TL072.sub
.backanno
.end
