* C:\Users\skipi\Desktop\Leo\Politek\Progetti\Kick\PoliKick\spice\PoliKick.asc
C1 N025 Vi 10n
R1 N025 0 39k
D1 0 N025 D
R3 Vcc N021 100k
R2 N021 0 33k
Vcc Vcc 0 12V
Vee 0 Vee 12V
Vi Vi 0 PULSE(0 5 1ms 50u 50u 3ms 200ms)
R4 N024 N023 100k
Q1 0 AccentCV N028 0 PNP
Q2 Vcc N024 N004 0 NPN
R5 N024 N028 22k
R6 N024 0 120k
D2 N004 N005 D
C2 0 N005 220n
R8 N007 N009 10k
R§TuneDecay N005 N007 100k
Q3 0 N011 N009 0 PNP
R10 PitchCV N011 68k
R11 N011 0 33k
Q4 Vcc N005 N001 0 NPN
R13 N006 N001 100k
Q5 N003 N006 N008 0 NPN
R12 N010 0 2k
R§TuneDepth N008 N010 10k
C3 N002 N001 5.6n
D3 N002 0 D
R9 N003 N002 1Meg
R14 N027 N004 100k
R15 0 N027 14k
R16 N017 N016 1Meg
C4 N003 N016 15n
C5 N017 N003 15n
R§Pitch N020 0 4.7k
R17 N003 N020 100k
R18 N018 N017 68k
R19 N012 N003 470k
R§DecayLog N012 N018 50k
R§Tone N026 N017 50k
C6 N026 0 68n
V§AccentCV AccentCV 0 5V
V§PitchCV PitchCV 0 {PitchCV}
XU5 N026 N013 Vout Vcc Vee TL072
R§DistortionGainLog Vout N013 100k
R7 N014 N013 1k
XX1 N022 N014 N015 N019 0 spdt
R20 0 N015 50k
V1 N019 0 0
D4 N022 Vout Dx
D5 Vout N022 Dx
R21 N013 0 5k
XU1 N025 N021 N023 Vcc Vee TL072
XU2 N027 N016 N017 Vcc Vee TL072
XU3 0 N018 N012 Vcc Vee TL072

* block symbol definitions
.subckt spdt 1 2 3 + -
S1 1 2 N001 - MSW
S2 1 3 + - MSW
A1 + 0 0 0 0 N001 0 0 BUF td=10n Vhigh=5
.model MSW SW(Ron=25u Roff=1G Vt=0.1 Vh=0.1)
.ends spdt

.model D D
.lib C:\Users\skipi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\skipi\AppData\Local\LTspice\lib\cmp\standard.bjt
* Gate to trigger
.tran 0 1s 0 100u
.step param PitchCV 0 5 1
* .step param AccentCV 0V 5V 1V
* .step param TuneDecay 10 100k 10k
* .step param TuneDepth 10 10k 1k
* .step param Pitch 10 100k 10k
* .step param DecayLog 10 50k 5k
* .step param Tone 10 50k 5k
* .step param Distorsion 10 100k 10k
* Pot 100k
* > 5V: ON
.model Dx D(Vfwd=4)
.backanno
.end
